US07465795B2
4-Amino-N-butyl-8-(2,4-dimethoxypyrimidin-5-yl)cinnoline-3-carboxamide
The title compound was prepared from 4-amino-8-bromo-N-butyl-cinnoline-3-carboxamide (200.0 mg, 0.62 mmol) and 2,4-dimethoxy-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrimidine (987.9 mg, 3.72 mmol) according to Method B to afford a white solid (162.1 mg, 69%). 1H NMR (300.132 MHz, CDCl3) δ 8.49 (t, J=5.5 Hz, 1H), 8.33 (s, 1H), 7.90 (dd, J=7.6, 2.1 Hz, 1H), 7.77-7.69 (m, 3H), 4.07 (s, 3H), 3.93 (s, 3H), 3.50 (q, J=6.6 Hz, 2H), 1.63 (quintet, J=7.2 Hz, 2H), 1.44 (sextet, J=7.4 Hz, 2H), 0.95 (t, J=7.3 Hz, 3H). MS APCI, m/z=383.1 (M+H). HPLC 2.52 min.

reactant | 4-amino-8-bromo-N-butyl-cinnoline-3-carboxamide | 0.62 mmol, 200.0 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCCCC | C13H15BrN4O
reactant | 2,4-dimethoxy-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrimidine | 3.72 mmol, 987.9 mg | COC1=NC=C(C(=N1)OC)B1OC(C(O1)(C)C)(C)C | C12H19BN2O4
product | 4-Amino-N-butyl-8-(2,4-dimethoxypyrimidin-5-yl)cinnoline-3-carboxamide | NC1=C(N=NC2=C(C=CC=C12)C=1C(=NC(=NC1)OC)OC)C(=O)NCCCC | C19H22N6O3
